US05484942
A solution of 20.3 g of 3-chloroperoxybenzoic acid (at 85%) in 300 cm3 of dichloromethane is added over 40 minutes to a solution, cooled to 0° C., of 25.4 g of 4,4-diphenyltetrahydrothiapyran in 130 cm3 of dichloromethane After stirring for 2 hours at 0° C., 250 cm3 of a 5% aqueous solution of potassium hydrogen carbonate are added to the mixture and it is then stirred for 15 minutes. The organic phase is again washed with 250 cm3 of a solution of potassium hydrogen carbonate and it is then dried over magnesium sulphate and concentrated to dryness (after verifying the absence of peroxides) under reduced pressure (2.7 kPa). 26.9 g of 4,4-diphenyltetrahydrothiapyran 1-oxide are obtained in the form of a white solid; melting point 122° C.

reactant | 3-chloroperoxybenzoic acid | 20.3 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 4,4-diphenyltetrahydrothiapyran | 25.4 g | C1(=CC=CC=C1)C1(CCSCC1)C1=CC=CC=C1 | C17H18S
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | dichloromethane | 300 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 130 cm3 | ClCCl | CH2Cl2
product | 4,4-diphenyltetrahydrothiapyran 1-oxide | 26.9 g | C1(=CC=CC=C1)C1(CCS(CC1)=O)C1=CC=CC=C1 | C17H18OS
